US04269788
28 g. of biphenyl in 300 ml. of absolute ether are added dropwise at about -33° C. while stirring to 360 ml. of dry, condensed ammonia. The mixture is cooled to about -50° C. and 2.5 g. of lithium wire (about 2 cm long pieces, de-greased with cyclohexane) are added over a period of 10 minutes. Then, the mixture is stirred at boiling temperature (about -33° C.) for 2 hours. 9.4 g. of (S)-2-chloro-N,N,1-trimethylethylamine hydrochloride are added portionwise at about -50° C. within about 3 minutes. The mixture is stirred at about -33° C. for 2 hours and subsequently worked-up. After adding ammonium chloride, distilling off of the ammonia, and aqueous working-up and chromatography in analogy to Example 3, there is obtained (S)-α,N,N-trimethyl-1-phenyl-2,5-cyclohexadien-1-ethylamine which is converted in the usual manner into the maleate. After crystallization from ether, the product has a melting point of 87° -90° C.

reactant | biphenyl | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
reactant | lithium | [Li] | Li
reactant | (S)-2-chloro-N,N,1-trimethylethylamine hydrochloride | Cl.ClC[C@H](C)N(C)C
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
product | (S)-α,N,N-trimethyl-1-phenyl-2,5-cyclohexadien-1-ethylamine | C[C@@H](CC1(C=CCC=C1)C1=CC=CC=C1)N(C)C | C17H23N
